US05710319
A solution of 4-bromo-2-fluorobenzyl isocyanate (46.0 g, 0.20 mol) in xylene (100 ml) is metered, at room temperature, into a solution of methyl 4-chloroanthranilate (37.1 g, 0.20 mol) in xylene (250 ml). After the addition has ended, the batch is stirred at 110° C. for 2 hours. 3.60 ml of a 30% solution of methanolic sodium methylate (0.020 mol) are metered in and the mixture is stirred at 90° C. for 2 hours, during which process methanol is distilled off. 1.8 ml of 85% formic acid (0.040 mol) are subsequently added, and the mixture is stirred at 90° C. for a further hour. After cooling, the product is filtered off with suction, washed with 3×50 ml of xylene, 3×50 ml of ethanol and 3×100 ml of water, and dried. 66.1 g of 3-(4-bromo-2-fluorobenzyl)-7-chloro-2,4(1H,3H)-quinazolinedione (yield: 86.2% of theory) of melting point 288 ° to 289° C. (lit. >280° C.) are obtained.

reactant | 4-bromo-2-fluorobenzyl isocyanate | 0.20 mol, 46.0 g | BrC1=CC(=C(CN=C=O)C=C1)F | C8H5BrFNO
reactant | methyl 4-chloroanthranilate | 0.20 mol, 37.1 g | ClC=1C=C(C(C(=O)OC)=CC1)N | C8H8ClNO2
reactant | sodium methylate | 0.020 mol | C[O-].[Na+]
reactant | formic acid | 0.040 mol, 1.8 ml | C(=O)O | CH2O2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | CO | CH4O
product | 3-(4-bromo-2-fluorobenzyl)-7-chloro-2,4(1H,3H)-quinazolinedione | 66.1 g, yield: 86.2% | BrC1=CC(=C(CN2C(NC3=CC(=CC=C3C2=O)Cl)=O)C=C1)F | C15H9BrClFN2O2
